US07291619B2
1-Boc-4-(2-piperazin-1-yl-benzoyl)-piperazine
Boc protected piperazine (849 mg, 4.56 mmol) was dissolved in DCM (20 mL) and triethyl amine (2.54 mL, 18.2 mmol) was added. To the stirred solution, ortho-bromo benzoyl chloride (2 g, 9.11 mmol) was added via syringe under nitrogen. The system was stirred for about 12 hours at r.t. The reaction was washed with water, dried, filtered, and concentrated. The residue was subjected to chromatography on silica gel to give 1-Boc-4-(2-bromo-)-piperazine (1.48 g, 8.85 mmol) as a white foam. 1-Boc-4-(2-bromo-benzoyl)-piperazine was coupled to piperazine in a manner similar to Preparation 1A. LRMS (ESI+): 375.2 (M+1)

reactant | 1-Boc-4-(2-bromo-benzoyl)-piperazine | C(=O)(OC(C)(C)C)N1CCN(CC1)C(C1=C(C=CC=C1)Br)=O | C16H21BrN2O3
reactant | piperazine | N1CCNCC1 | C4H10N2
product | 1-Boc-4-(2-piperazin-1-yl-benzoyl)-piperazine | C(=O)(OC(C)(C)C)N1CCN(CC1)C(C1=C(C=CC=C1)N1CCNCC1)=O | C20H30N4O3
